2138-03-29 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2138-3-28**] 11:30 AM
   sputum induction
 BLOOD CULTURED - At [**2138-3-28**] 04:30 PM
   2 sets
 FEVER - 103.3
F - [**2138-3-29**] 01:00 AM
   [**2138-3-28**] events:
   Spiked fever to 101.1 [**2138-3-28**] afternoon, appeared well throughout.
   Spoke with PCP coverage who reported patient recently on course of
   Bactrim for UTI, not for prophylaxis purposes.  Most recent CD4
   confirmed @ 613 with VL < 50. Patient then spiked fever to 103.3 in the
   evening.  Blood culture x 2 sent, PA/Lat CXR obtained that showed
   worsening of RLL infiltrate (though overly penetrated study).  Added
   ceftriaxone/vancomycin (history of MRSA in skin wounds).  Patient
   tachypneic throughout the night.  N/V x 1.
   - ID consult in AM
   - F/u urinary legionella antigen
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2138-3-28**] 08:45 PM
   Bactrim (SMX/TMP) - [**2138-3-28**] 08:45 PM
   Ceftriaxone - [**2138-3-28**] 11:17 PM
   Vancomycin - [**2138-3-29**] 07:24 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-3-29**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**39**] AM
   Tmax: 39.6
C (103.3
   Tcurrent: 37.2
C (99
   HR: 94 (94 - 128) bpm
   BP: 103/53(81) {87/49(59) - 119/75(81)} mmHg
   RR: 20 (16 - 48) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,360 mL
                                                                    300 mL
   PO:
                                                                    700 mL
             TF:
   IVF:
                                                                  1,660 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                    785 mL
                                                                    655 mL
   Urine:
                                                                    785 mL
                                                                    655 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,575 mL
                                                                   -355 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General: Awake in bed watching television, NAD
   HEENT: NC in place on 2.5 L O2, mmm
   CV: Tachycardic, regular
   Lungs: Shallow resp, faint bibasilr crackles
   Abdomen: Soft, NT/ND, +NABS
   Extremities: 2+ DP pulses
   Labs / Radiology
   113 K/uL
   11.5 g/dL
   98 mg/dL
   1.8 mg/dL
   22 mEq/L
   3.9 mEq/L
   19 mg/dL
   105 mEq/L
   135 mEq/L
   33.4 %
   7.0 K/uL
        [image002.jpg]
                             [**2138-3-28**]  03:14 PM
                             [**2138-3-29**]  02:07 AM
   WBC
   7.0
   Hct
   33.4
   Plt
   113
   Cr
   1.8
   1.8
   Glucose
   116
   98
   Other labs: PT / PTT / INR:18.1/36.7/1.6, ALT / AST:45/117, Alk Phos /
   T Bili:92/2.2, Ca++:7.3 mg/dL, Mg++:0.9 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   44 y/o M with hx of HIV, systemic scleroderma, ILD with UIP and
   hypothyroidism who presents with fevers, rigors and no localizing
   symptoms.  Remained hypotensive despite fluid resuscitation.
   .
   # Fevers: Unclear etiology at this time; has chronic cough and has no
   true localizing symptoms elsewhere besides fevers and generalized body
   aches.  Chest CT did possibly show an underlying infection, but
   difficult to detemine given his underlying ILD.  Does have HIV,
   although CD4 count is high, but differential should be broadened.
   Differential includes viral vs. bacterial PNA; in addition,  LDH is
   elevated, so need to consider PCP (less likley given high CD4 count).
   Outside lung pathology, his LP and head CT were normal so do not
   suspect encephalitis or meningitis.  Abd benign, so do not suspect abd
   process, although has elevated AST. Patient continued febrile
   overnight. Responsive to Tylenol, cooling blanket.  DFA negative.
   - Stop tamiflu given DFA negative
   - Continue vanco/CTX/levo for pneumonia as well as Bactrim for UTI
   - F/U BCx, legionella UA
   - Repeat sputum cx including PCP
   [**Name Initial (PRE) **] Consider ABG if continues febrile, coughing
   - Consider Infectious disease consult
   # Hypotension: was normotensive on presentation to the ED and then was
   hypotensive with SBPs in 70s for approximately 2 hours.  Did not
   initially respond to fluid boluses.  Has since normalized.  Most likely
   secondary to infection and venodilation.  .  Could be adrenal
   insufficiency, although hasn't been on chronic steroids.  Cardiac shock
   less likely given normal EKG and lack of chest pain.
   - continue IVF boluses PRN for MAP <60
   - would use LR if boluses because of mild acidosis
   - consider CVL and pressors if not responsive to IVFs
   - trend lactates, urine output
   # ARF: new ARF from baseline of 1.0; making appropriate urine.  FeNa is
   0.5% which suggest prerenal, although after 6L of NS, his creatinine
   did not improve.  Did start Bactrim recently, although would be strange
   to have this rise in Cr after only one dose. Creatinine persistently
   elevated at 1.8.
   - trend Cr
   - continue fluid resuscitation
   - check urine eos, consider re-check urine lytes if no improvement
   - renally dose meds; avoid nephrotoxins
   # Low magnesium. Unclear etiology. Was not checked on admission so
   difficult to establish trend.
   - Recheck PM lytes
   - Replete PRN
   # High LDH: unclear etiology, although could be consistent with PCP
   pneumonia vs. new lymphoma, which given hx of HIV is more possible.
   - trend LDH
   - pcp sputum smears as above
   - follow up on recent CD4 counts
   # Headache: is mild, less worrisome for meningitis, although given
   relative [**Name (NI) 12352**], could represent underlying infection.  Has
   negative LP and CT head in ED.
   - tylenol PRN for pain
   - f/u CSF cultures, but no abx coverage for meningitis
   # Conjunctivitis: again, likely from a viral illness.  Is asymptomatic
   at this point, but will monitor clinically.
   - saline eye gtts for now
   - consider cipro gtt if patient becomes more symptomatic
   .
   # ILD: has underlying ILD that has been stable, and today seems at
   baseline.  Reviewing CT scan has stable honeycombing in the peripheries
   and more ground glass infiltrates consistent with different process,
   likely infectious as discussed above.
   - continue nebs
   - PNA/flu treatment as above
   .
   # HIV: on HARRT and per old labs, has high CD4 around 600.  Will need
   to contact outpatient doctor to review meds, recent labs and
   prophylaxis plans for him.
   - continue current regimen
   - contact PCP
   [**Name Initial (PRE) **] consider adding prophylaxis based on CD4 count
   .
   # Scleroderma: stable, continue to monitor for now
   .
   # Anemia: had normal hct on presentation and down from 41 to 37 after
   6L of IVFs, so value is likley dilutional.  No reason to suspect
   bleeding elsewhere.
   - guiac stools
   - trend hct
   .
   # Thrombocytopenia: mild today, has hx of ITP in [**2136**] after a lung
   biopsy.  He was treated with IVIG and improved.  Steroids were avoided
   at that time in order to prevent a possible scleroderma steroid induced
   renal crisis.  Today's platelets are below his new normal baseline of
   around 160s.
   .
   # Gout: stable, asymptomatic.
   - hold allopurinol in setting of renal failure
   .
   # Hypothyroidism: stable, asymptomatic
   - continue levothyroxine at home dose
   .
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals 18 g x2
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2138-3-28**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-03-30 08:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2138-3-29**] 08:45 AM
 EKG - At [**2138-3-29**] 09:42 AM
 PAN CULTURE - At [**2138-3-29**] 06:46 PM
   venipuncture right hand phlebotomy draw
 STOOL CULTURE - At [**2138-3-29**] 06:47 PM
 FEVER - 102.0
F - [**2138-3-29**] 12:00 PM
    Spiked to 101.1 that was responsive to anti-pyretics. Re-cultured.
   - Bronch deferred given decreasing LDH, high suspicion for viral
   etiology
   - C. diff sent after 2 yellow loose stool
   - No hypotension
   - reduced coughing and better RR O/N w/ PRN robitussin and codiene
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2138-3-29**] 08:30 PM
   Bactrim (SMX/TMP) - [**2138-3-29**] 08:30 PM
   Levofloxacin - [**2138-3-29**] 08:31 PM
   Ceftriaxone - [**2138-3-29**] 10:14 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-3-30**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**39**] AM
   Tmax: 38.9
C (102
   Tcurrent: 37.7
C (99.9
   HR: 95 (76 - 114) bpm
   BP: 120/60(75) {92/41(53) - 120/80(87)} mmHg
   RR: 20 (19 - 43) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,600 mL
                  PO:
                                                                    900 mL
                  TF:
   IVF:
                                                                    700 mL
   Blood products:
   Total out:
                                                                  5,275 mL
                                                                  1,545 mL
   Urine:
                                                                  4,875 mL
                                                                  1,545 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                 -3,675 mL
                                                                 -1,545 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   General: Awake in bed watching television, NAD, chronic dry cough
   HEENT: NC in place on 2.5 L O2, mmm
   CV:  S1, S2, regular rhythm,
   Lungs: Tachypneic, Shallow resp, faint bibasilr crackles bilaterally
   Abdomen: Soft, NT/ND, +NABS
   Extremities: 2+ DP pulses
   Labs / Radiology
   113 K/uL
   11.8 g/dL
   94 mg/dL
   1.3 mg/dL
   25 mEq/L
   4.0 mEq/L
   13 mg/dL
   107 mEq/L
   137 mEq/L
   34.1 %
   5.4 K/uL
        [image002.jpg]
                             [**2138-3-28**]  03:14 PM
                             [**2138-3-29**]  02:07 AM
                             [**2138-3-29**]  12:36 PM
                             [**2138-3-30**]  05:34 AM
   WBC
   7.0
   7.0
   5.4
   Hct
   33.4
   34.1
   Plt
   113
   113
   Cr
   1.8
   1.8
   1.6
   1.3
   Glucose
   116
   98
   105
   94
   Other labs: PT / PTT / INR:18.1/36.7/1.6, ALT / AST:45/117, Alk Phos /
   T Bili:92/2.2, Albumin:3.1 g/dL, LDH:268 IU/L, Ca++:8.0 mg/dL, Mg++:1.7
   mg/dL, PO4:2.4 mg/dL
   Micro:
   - C. Diff ([**3-29**]) negative
   - Blood CX ([**3-29**]):
   - Urine CX ([**3-29**]):
   - CMV IgG, IgM:
   - Monospot: negative
   - EBV IgM, IgG:
   - Sputum Legionella ([**3-29**]): negative
   - Sputum PCP ([**3-29**]): negative
   - Sputum PCP ([**3-28**]): negative
   - Influenza: negative
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   44 y/o M with hx of HIV, systemic scleroderma, ILD with UIP and
   hypothyroidism who presents with fevers, rigors and no localizing
   symptoms.  Remained hypotensive despite fluid resuscitation.
   .
   # Fevers: Unclear etiology at this time; has chronic cough and has no
   true localizing symptoms elsewhere besides fevers and generalized body
   aches.  Chest CT did possibly show an underlying infection, but
   difficult to detemine given his underlying ILD.  Does have HIV,
   although CD4 count is high, but differential should be broadened.
   Differential includes viral vs. bacterial PNA; in addition,  LDH is
   elevated, so need to consider PCP (less likley given high CD4 count).
   Outside lung pathology, his LP and head CT were normal so do not
   suspect encephalitis or meningitis.  Abd benign, so do not suspect abd
   process, although has elevated AST. Patient continued febrile
   overnight. Responsive to Tylenol, cooling blanket.  DFA negative. Most
   likely, this is a viral syndrome.
   - Stop tamiflu given DFA negative
   - D/C vanco, CTX
   - Continue levo for pneumonia as well as Bactrim for UTI
   - F/U BCx, legionella UA
   - Repeat sputum cx including PCP
   [**Name Initial (PRE) **] Consider ABG if continues febrile, coughing
   - Consider Infectious disease consult
   # Hypotension: was normotensive on presentation to the ED and then was
   hypotensive with SBPs in 70s for approximately 2 hours.  Did not
   initially respond to fluid boluses.  Has since normalized.  Most likely
   secondary to infection and venodilation.  .  Could be adrenal
   insufficiency, although hasn't been on chronic steroids.  Cardiac shock
   less likely given normal EKG and lack of chest pain.
   - continue IVF boluses PRN for MAP <60
   - would use LR if boluses because of mild acidosis
   - consider CVL and pressors if not responsive to IVFs
   - trend lactates, urine output
   # ARF: new ARF from baseline of 1.0; making appropriate urine.  FeNa is
   0.5% which suggest prerenal, although after 6L of NS, his creatinine
   did not improve.  Did start Bactrim recently, although would be strange
   to have this rise in Cr after only one dose. Creatinine persistently
   elevated at 1.8.
   - trend Cr
   - continue fluid resuscitation
   - check urine eos, consider re-check urine lytes if no improvement
   - renally dose meds; avoid nephrotoxins
   # Low magnesium. Unclear etiology. Was not checked on admission so
   difficult to establish trend.
   - Recheck PM lytes
   - Replete PRN
   # High LDH: unclear etiology, although could be consistent with PCP
   pneumonia vs. new lymphoma, which given hx of HIV is more possible.
   - trend LDH
   - pcp sputum smears as above
   - follow up on recent CD4 counts
   # Headache: is mild, less worrisome for meningitis, although given
   relative [**Name (NI) 12352**], could represent underlying infection.  Has
   negative LP and CT head in ED.
   - tylenol PRN for pain
   - f/u CSF cultures, but no abx coverage for meningitis
   # Conjunctivitis: again, likely from a viral illness.  Is asymptomatic
   at this point, but will monitor clinically.
   - saline eye gtts for now
   - consider cipro gtt if patient becomes more symptomatic
   .
   # ILD: has underlying ILD that has been stable, and today seems at
   baseline.  Reviewing CT scan has stable honeycombing in the peripheries
   and more ground glass infiltrates consistent with different process,
   likely infectious as discussed above.
   - continue nebs
   - PNA/flu treatment as above
   .
   # HIV: on HARRT and per old labs, has high CD4 around 600.  Will need
   to contact outpatient doctor to review meds, recent labs and
   prophylaxis plans for him.
   - continue current regimen
   - contact PCP
   [**Name Initial (PRE) **] consider adding prophylaxis based on CD4 count
   .
   # Scleroderma: stable, continue to monitor for now
   .
   # Anemia: had normal hct on presentation and down from 41 to 37 after
   6L of IVFs, so value is likley dilutional.  No reason to suspect
   bleeding elsewhere.
   - guiac stools
   - trend hct
   .
   # Thrombocytopenia: mild today, has hx of ITP in [**2136**] after a lung
   biopsy.  He was treated with IVIG and improved.  Steroids were avoided
   at that time in order to prevent a possible scleroderma steroid induced
   renal crisis.  Today's platelets are below his new normal baseline of
   around 160s.
   .
   # Gout: stable, asymptomatic.
   - hold allopurinol in setting of renal failure
   .
   # Hypothyroidism: stable, asymptomatic
   - continue levothyroxine at home dose
   .
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals 18 g x2
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: Called out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2138-3-28**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: